US05098949
One hundred gram (450 mmol) of phenoxycarbonylpropyleneurea and 59 g (450 mmol) of hydroxyehtyl methacrylate were dissolved in 900 ml of dioxane at 85° to 90° C. Then, 400 mg of dibutyltin dilaurate was added thereto and allowed to mix for 13 hours with heat. After completion of the reaction, the mixture was concentrated and recrystalized with ether to obtain 90 g of 2-methacryloyloxyethyloxycarbonylpropyleneurea (77.5% yield).

reactant | phenoxycarbonylpropyleneurea | 450 mmol, One hundred gram | O(C1=CC=CC=C1)C(=O)CC(C)NC(=O)N | C11H14N2O3
reactant | hydroxyehtyl methacrylate | 450 mmol, 59 g | C(C(=C)C)(=O)OCCO | C6H10O3
solvent | dioxane | 900 ml | O1CCOCC1 | C4H8O2
catalyst | dibutyltin dilaurate | 400 mg | C(CCCCCCCCCCC)(=O)[O-].C(CCCCCCCCCCC)(=O)[O-].C(CCC)[Sn+2]CCCC
product | 2-methacryloyloxyethyloxycarbonylpropyleneurea | 90 g, 77.5% yield | C(C(=C)C)(=O)OCCOC(=O)CC(C)NC(=O)N | C11H18N2O5
